US09120777B2
H) 1-(1-((6-Cyclopropyl-2,2′,4′-trifluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid
A mixture of methyl 1-(1-((6-cyclopropyl-2,2′,4′-trifluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate (161 mg), a 1 M aqueous sodium hydroxide solution (1 mL), and ethanol (2 mL) was stirred at 70 C for 1 hour. The reaction mixture was pH-adjusted to 3 using 1 M hydrochloric acid, followed by extraction with ethyl acetate twice. The organic layer was separated and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was crystallized (2-propanol/hexane) to obtain the title compound (123 mg).

reactant | methyl 1-(1-((6-cyclopropyl-2,2′,4′-trifluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate | 161 mg | C1(CC1)C1=CC(=C(C(=C1C1=C(C=C(C=C1)F)F)F)OC(C)C)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)OC)CC)=O | C33H37F3N2O4
reactant | sodium hydroxide | 1 M, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(1-((6-Cyclopropyl-2,2′,4′-trifluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 123 mg | C1(CC1)C1=CC(=C(C(=C1C1=C(C=C(C=C1)F)F)F)OC(C)C)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)O)CC)=O | C32H35F3N2O4
